US06051712
A solution of 190 mg (0.41 mmol) of tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1 -carboxylate in a mixture of 5 ml of methanol and 25% aqueous hydrochloric acid was heated under reflux for 1 hour. Subsequently, the solvent mixture was distilled off under reduced pressure. After recrystallization of the residue from a mixture of methanol and ether there were obtained 130 mg (73% of theory) of (3RS,4RS)-4-(1,3-benzodioxol-5-yl)-3-naphthalen-2-ylmethoxy-piperidine hydrochloride as a white powder; MS: 362 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-benzo[1,3]dioxol-5-yl-3-(naphthalen-2-ylmethoxy)-piperidine-1 -carboxylate | 0.41 mmol, 190 mg | O1COC2=C1C=CC(=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC1=CC=CC=C1C=C2 | C28H31NO5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (3RS,4RS)-4-(1,3-benzodioxol-5-yl)-3-naphthalen-2-ylmethoxy-piperidine hydrochloride | 130 mg, 73% | Cl.O1COC2=C1C=CC(=C2)C2C(CNCC2)OCC2=CC1=CC=CC=C1C=C2 | InChI=1S/C23H23NO3.ClH/c1-2-4-18-11-16(5-6-17(18)3-1)14-25-23-13-24-10-9-20(23)19-7-8-21-22(12-19)27-15-26-21;/h1-8,11-12,20,23-24H,9-10,13-15H2;1H
